US06020499
Preparation of 5-carbomethoxy-5-methyl-1,3-dioxan-2-one (2)
In a 500 mL three neck RB flask were added methyl 2,2-bis(hydroxymethyl)propionate (12.45 g) and tetrahydrofuran (THF) (100 mL). The resulting mixture was stirred under nitrogen via a mechanical stirrer until a homogeneous solution results. Triphosgene (8.78 g) was added and the solution cooled to -78° C. Triethylamine (18.3 g) was slowly added to the cooled solution. The resulting mixture was stirred at this temperature for one hour and then allowed to warm to room temperature. The triethylamine/HCl salt was filtered off and the resulting filtrate pass through a shallow bed of silica gel. The filtrate was concentrated at reduced pressure and then dried under vacuum affording 13.4 g of product which had a small amount of contamination. This contamination was removed via washing with warm diethyl ether. 1H NMR (CDCl3) ppm: 4.67 (ab doublet, 2H), 4.20 (ab doublet, 2H), 3.77 (S, 3H), 1.30 (S, 3H).

reactant | methyl 2,2-bis(hydroxymethyl)propionate | 12.45 g | OCC(C(=O)OC)(C)CO | C6H12O4
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | Triphosgene | 8.78 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | Triethylamine | 18.3 g | C(C)N(CC)CC | C6H15N
product | 5-carbomethoxy-5-methyl-1,3-dioxan-2-one | 13.4 g | C(=O)(OC)C1(COC(OC1)=O)C | C7H10O5
